US04298739
1.6 Grams of 5-hydroxy-3,4-dihydrocarbostyril, 0.8 g of pyridine, 1.8 g of potassium iodide and 2.8 g of N-methyl-N-(4-chlorobutyryl)cyclohexylamine are added to 30 ml of dioxane, and the mixture is refluxed under agitation for 12 hours. After the reaction, the reaction solution is poured into 200 ml of saturated NaCl solution and the precipitated crystals are filtered out. The crude crystals are dissolved in 50 ml of chloroform and the organic layer is washed with 1 N sodium hydroxide (50 ml×2), water and then, dried with anhydrous sodium sulfate, followed by removal of the solvent by distillation, and the resultant residue is recrystallized from ethyl acetate to obtain 0.8 g of 5-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril in the form of colorless prism-like crystals with melting point of 133°-134° C.

reactant | 5-hydroxy-3,4-dihydrocarbostyril | OC1=C2CCC(NC2=CC=C1)=O | C9H9NO2
reactant | potassium iodide | 1.8 g | [I-].[K+]
reactant | N-methyl-N-(4-chlorobutyryl)cyclohexylamine | 2.8 g | CN(C(CCCCl)=O)C1CCCCC1 | C11H20ClNO
reactant | NaCl | 200 ml | [Na+].[Cl-]
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | pyridine | 0.8 g | N1=CC=CC=C1 | C5H5N
product | 5-[3-(N-methyl-N-cyclohexylaminocarbonyl)propoxy]-3,4-dihydrocarbostyril | 0.8 g | CN(C(=O)CCCOC1=C2CCC(NC2=CC=C1)=O)C1CCCCC1 | C20H28N2O3
